US07498337B2
methyl 4-fluoro-5-phenyl-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carboxylate
By a similar reaction as in Reference Example 36 and using methyl 4-fluoro-5-phenyl-1H-pyrrole-3-carboxylate (172 mg), the title compound was obtained as a colorless solid (yield 206 mg, 73%). More specifically, to a solution of methyl 4-fluoro-5-phenyl-1H-pyrrole-3-carboxylate (172 mg) in tetrahydrofuran (10 mL) was added sodium hydride (60% in oil, 94 mg), and the mixture was stirred for 15 min. 15-Crown-5 (0.48 mL) was added, and the mixture was further stirred for 15 min. Pyridine-3-sulfonyl chloride hydrochloride (219 mg) was added and the mixture was stirred for 30 min. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=19:1→1:1) to give the title compound as a colorless solid (yield 206 mg, 73%).

reactant | methyl 4-fluoro-5-phenyl-1H-pyrrole-3-carboxylate | 172 mg | FC=1C(=CNC1C1=CC=CC=C1)C(=O)OC | C12H10FNO2
reactant | sodium hydride | 94 mg | [H-].[Na+]
reactant | 15-Crown-5 | 0.48 mL | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | Pyridine-3-sulfonyl chloride hydrochloride | 219 mg | Cl.N1=CC(=CC=C1)S(=O)(=O)Cl
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | methyl 4-fluoro-5-phenyl-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carboxylate | yield 206 mg, 73% | FC=1C(=CN(C1C1=CC=CC=C1)S(=O)(=O)C=1C=NC=CC1)C(=O)OC | C17H13FN2O4S
